US07144881B2
2-Phenyl-cyclopropanecarboxylic acid(2-hydroxy-1-naphthalen-2-yl-ethyl)-amide
A mixture of (R)-2-amino-2-naphthalen-2-yl-ethanol (0.2 mmol), 2-phenyl-cyclopropanecarboxylic acid (0.2 mmol), EDAC.HCl (0.4 mmol), DMAP (0.2 mmol), and triethylamine (0.6 mmol) in dichloromethane (2 mL) was stirred at room temperature for 12 h. The reaction mixture was purified by flash chromatography eluting with 50% hexanes in ethyl acetate to give the desired product (52 mg) as a solid.

reactant | (R)-2-amino-2-naphthalen-2-yl-ethanol | 0.2 mmol | N[C@@H](CO)C1=CC2=CC=CC=C2C=C1 | C12H13NO
reactant | 2-phenyl-cyclopropanecarboxylic acid | 0.2 mmol | C1(=CC=CC=C1)C1C(C1)C(=O)O | C10H10O2
reactant | EDAC.HCl | 0.4 mmol | CCN=C=NCCCN(C)C.Cl
reactant | triethylamine | 0.6 mmol | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 0.2 mmol | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 2-Phenyl-cyclopropanecarboxylic acid(2-hydroxy-1-naphthalen-2-yl-ethyl)-amide | 52 mg | OCC(C1=CC2=CC=CC=C2C=C1)NC(=O)C1C(C1)C1=CC=CC=C1 | C22H21NO2
